US08357679B2
C: 5-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)thiazole-2-carbaldehyde
To a nitrogen purged three-necked flask was added n-butyl lithium in hexane (2.5M, 9.09 mmol, 3.64 mL) and diethyl ether (8 mL). The solution was cooled to −78° C. and 2-(2-bromothiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.03 mmol, 1 g) in diethyl ether (7 mL) added drop wise over a period of 15 minutes. The mixture was stirred at −78° C. for 20 minutes before the drop wise addition of N,N-dimethylformamide (4.54 mmol, 0.332 g) in diethyl ether (4 mL). The mixture was stirred at −78° C. for 1 hour then was allowed to warm to −60° C. and stir for 1 hour. The mixture was slowly quenched with 4M hydrochloric acid at −60° C. and allowed to warm to room temperature. The mixture was extracted with diethyl ether (100 mL), washed with 4M hydrochloric acid (50 mL), followed by water (50 mL) and then brine (50 mL). The organic phase was dried over magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting with a gradient of heptane to 50% ethyl acetate/50% heptane) to afford the title compound (500 mg).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 9.09 mmol, 2.5M, 3.64 mL | CCCCCC | C6H14
reactant | 2-(2-bromothiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.03 mmol, 1 g | BrC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O | C6H2BrF6NOS
reactant | N,N-dimethylformamide | 4.54 mmol, 0.332 g | CN(C=O)C | C3H7NO
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 5-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)thiazole-2-carbaldehyde | 500 mg | FC(C(C(F)(F)F)(O)C1=CN=C(S1)C=O)(F)F | C7H3F6NO2S
